US05032165
Preparation of 5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorobenzaldehyde (compound No. 227)
After addition of 100 ml water to a solution of 3-(5-bromomethyl-2,4-dichlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole (26.60 g, 63.3 mmoles) in 100 ml glacial acetic acid, hexamethylenetetramine (8.87 g, 63.3 mmoles) was added and reacted under reflux for 2 hours. Further, 40 ml conc. sulfuric acid was added and reacted under reflux for 13 hours. Then the reaction product mixture, poured into ice-cold water, was extracted with ethyl acetate. The extract solution was washed with 5% aqueous NaHCO3 and then with water, dehydrated, and concentrated. Purification of the residue by column chromatography gave the title compound (12.66 g), m.p. 138.2° C., yield 56.3%.

reactant | water | 100 ml | O | H2O
reactant | 3-(5-bromomethyl-2,4-dichlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 63.3 mmoles, 26.60 g | BrCC=1C(=CC(=C(C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl | C12H8BrCl3F2N2O
reactant | hexamethylenetetramine | 63.3 mmoles, 8.87 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorobenzaldehyde | 12.66 g, yield 56.3% | ClC=1C(=NN(C1OC(F)F)C)C=1C(=CC(=C(C=O)C1)Cl)Cl | C12H7Cl3F2N2O2
